US08084620B2
Step 2 A suspension of 7-methoxyquinazolin-4-ol (400 mg, 2.271 mmol) in phosphorus oxychloride (7 mL, 75 mmol) was heated at reflux for 3 h. The solution was concentrated and the residue was suspended in EtOAc and stirred on an ice bath with NaHCO3 (aq) until all the solid was dissolved and gas evolution ceased. The layers were separated and the organic phase was dried and concentrated to provide 4-chloro-7-methoxyquinazoline as a light yellow-tan solid (438 mg, 99%). 1H NMR (400 MHz, chloroform-d) δ 8.94 (1H, s), 8.15 (1H, d, J=9.7 Hz), 7.29-7.37 (2H, m), 4.00 (3H, s).

reactant | 7-methoxyquinazolin-4-ol | 2.271 mmol, 400 mg | COC1=CC=C2C(=NC=NC2=C1)O | C9H8N2O2
reactant | phosphorus oxychloride | 75 mmol, 7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-methoxyquinazoline | 438 mg, 99% | ClC1=NC=NC2=CC(=CC=C12)OC | C9H7ClN2O
